US08258138B2
iii) 4-[Benzenesulfonyl-(4-chloro-benzyl)-amino]-benzoic acid
A solution of 4-[benzenesulfonyl-(4-chloro-benzyl)-amino]-benzoic acid tert-butyl ester (2.1 g, 4.4 mmol) in 10% trifluoroacetic acid/dichloromethane (50 mL) was stirred at room temperature for 16 hours. The reaction mixture was concentrated in vacuo and the residue partitioned between sodium hydrogen carbonate (saturated solution, 25 mL) and dichloromethane (20 mL). The aqueous layer was separated, acidified (pH 1) using 10% HCl (aq) and the resulting solution extracted with dichloromethane (3×75 mL). The organics were combined, dried over magnesium sulfate and concentrated in vacuo to afford the title compound as a white solid (1.1 g, 62% yield)

reactant | 4-[benzenesulfonyl-(4-chloro-benzyl)-amino]-benzoic acid tert-butyl ester | 4.4 mmol, 2.1 g | C(C)(C)(C)OC(C1=CC=C(C=C1)N(CC1=CC=C(C=C1)Cl)S(=O)(=O)C1=CC=CC=C1)=O | C24H24ClNO4S
solvent | trifluoroacetic acid dichloromethane | 50 mL | FC(C(=O)O)(F)F.ClCCl
product | 4-[Benzenesulfonyl-(4-chloro-benzyl)-amino]-benzoic acid | 1.1 g, 62% yield | C1(=CC=CC=C1)S(=O)(=O)N(C1=CC=C(C(=O)O)C=C1)CC1=CC=C(C=C1)Cl | C20H16ClNO4S
